US06953793B2
C. 4-(5-Dimethylamino-1-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester.
A stirring solution of 5.3 g (0.014 mol) of 4-(6-dimethylamino-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester in methanol/EtOAc (73 mL/15 mL) was degassed. 10% Pd/C (1.17 g, 0.5 mmol) was added as a suspension in EtOH (5 mL), followed by ammonium formate (4.5 g, 0.073 mol). The mixture was stirred at room temperature for 3 h. The reaction mixture was then filtered through celite and the filtrate was concentrated, giving a purple oil. The residue was then dissolved in THF (73 mL), and 11.7 g (0.073 mol) of CDl was added, and the reaction was heated to 98° C. and stirred for 16 h. The mixture was then cooled and concentrated. The crude product was then partitioned between EtOAc (800 mL) and NaHCO3 (100 mL), and the organic layer was washed with water (5×100 mL) and NaCl (100 mL). The combined aqueous layers were back-extracted with EtOAc (150 mL). The resulting organic layers were combined and dried over Na2SO4 and concentrated. The residue (2.4 g) was dissolved in THF (73 mL). To this stirring solution was added KHMDS (3.46 g, 0.017 mol) and iodomethane (10.3 g, 0.072 mol), and the mixture was allowed to stir for 20 min. The solvent was then concentrated, and the crude product was partitioned between EtOAc (600 mL) and NaHCO3 (200 mL). The organic layer was washed with NaHCO3 (150 mL), dried over Na2SO4, and concentrated. Purification using flash chromatography (silica, 80% EtOAc/hexanes) afforded 2.4 g (67% yield, 3 steps, based upon using 2/3 material at methylation stage) of desired product as a white solid. MS (electrospray): exact mass calculated for C19H29N5O3, 375.23. m/z found, 276.17 [M+H−100]+. 1H NMR: (400 MHz, CDCl3): 7.02 (d, J=8.6 Hz, 1H), 6.15 (d, J=8.6 Hz, 1H), 4.46 (tt, J=12.0 Hz and 4.0 Hz, 1H), 4.38-4.11(m, 2H), 3.33 (s, 3H), 3.01 (s, 6H), 2.95-2.73 (m, 2H), 2.73-2.55 (m, 2H), 1.77-1.61 (m, 2H), 1.47 (s, 9H).

reactant | 4-(6-dimethylamino-3-nitro-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.014 mol, 5.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC=C1[N+](=O)[O-])N(C)C | C17H27N5O4
reactant | ammonium formate | 0.073 mol, 4.5 g | C(=O)[O-].[NH4+]
reactant | KHMDS | 0.017 mol, 3.46 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethane | 0.072 mol, 10.3 g | IC | CH3I
solvent | methanol EtOAc | 73 mL | CO.CCOC(=O)C
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | THF | 73 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.5 mmol, 1.17 g | [Pd] | Pd
product | 4-(5-Dimethylamino-1-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 67% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C=2C1=NC(=CC2)N(C)C)C)=O | C19H29N5O3
